US06096735
To a solution of 7-chloro-1-(3-methoxy-4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.7 g) in pyridine (5 ml) is added N,N-dimethyl-carbamic chloride (0.42 ml), and the mixture is stirred at 60-70° C. for two hours. The mixture is made acidic with hydrochloric acid, and then extracted with ethyl acetate. The mixture is washed with a saturated aqueous sodium hydrogen carbonate solution, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; ethyl acetate:n-hexane=1:10→1:1→3:1), and recrystallized from ethanol/diethyl ether to give 7-chloro-1-(3-methoxy-4-dimethylaminocarbonylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.33 g) as white plates.

reactant | 7-chloro-1-(3-methoxy-4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.7 g | ClC=1C=CC2=C(CCCCN2C(C2=CC(=C(C=C2)N)OC)=O)C1 | C18H19ClN2O2
reactant | N,N-dimethyl-carbamic chloride | 0.42 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-1-(3-methoxy-4-dimethylaminocarbonylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.33 g | ClC=1C=CC2=C(CCCCN2C(C2=CC(=C(C=C2)NC(=O)N(C)C)OC)=O)C1 | C21H24ClN3O3
